US09079866B2
5-[2′-(Cyclopropylsulfonyl)-3-fluorobiphenyl-4-yl]pyrimidin-2-amine
The title compound was prepared using methods analogous to those described in Example 376 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and 1-bromo-2-(cyclopropylsulfonyl)benzene. MS (ESI): mass calcd. for C19H16FN3O2S, 369.10; m/z found, 370.0 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.59 (d, J=1.5, 2H), 8.14 (dd, J=7.9, 1.5, 1H), 7.70-7.63 (m, 1H), 7.62-7.54 (m, 1H), 7.45 (m, 1H), 7.41-7.28 (m, 3H), 5.23 (s, 2H), 2.19-2.06 (m, 1H), 1.16-1.07 (m, 2H), 0.93-0.81 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | 1-bromo-2-(cyclopropylsulfonyl)benzene | BrC1=C(C=CC=C1)S(=O)(=O)C1CC1 | C9H9BrO2S
product | 5-[2′-(Cyclopropylsulfonyl)-3-fluorobiphenyl-4-yl]pyrimidin-2-amine | C1(CC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C19H16FN3O2S
